*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/8.20e-04[uF]/250[V]
* Murata P/N :GCM21A5C2E821FX01
* Property : C = 8.20e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2E821FX01 Port1 Port2
C01 Port1 N01 8.20e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 9.20e-11
R03 N02 N03 2.88e-02
C04 N03 N04 4.81e-07
R04 N03 N04 3.08e-02
L05 N04 N05 5.98e-11
R05 N04 N05 6.30e-01
L06 N05 N06 7.14e-11
R06 N05 N06 2.36e-02
C07 N06 N07 1.13e-08
L07 N06 N07 6.07e-12
R07 N06 N07 1.85e-01
C08 N07 N08 1.04e-09
L08 N07 N08 2.38e-11
R08 N07 N08 5.01e-01
C09 N08 Port2 8.38e-13
L09 N08 Port2 4.01e-10
R09 N08 Port2 2.13e+02
.ENDS GCM21A5C2E821FX01
